### ISSUE TITLE
Simp and structure projection problem

### ISSUE THREAD

**Issue by lecopivo** [leanprover/lean4#1041]
I have a simp lemma that behaves differently on projection `Prod.fst : α × β → α` and on a custom function `my_fst : α × β → α`. 

The lemma is that an adjoint of composition is composition of adjoints: `adjoint (λ x => f (g x)) = adjoint g ∘ adjoint f `. Interestingly, the simplifier applies this lemma on `adjoint Prod.fst` with `g = id` but it does not apply this lemma on `adjoint my_fst`.

What is going on? Why is `Prod.fst` and `my_fst` treated by the simplifier differently? Is this an intended behavior? Is it an unfortunate consequence of another reasonable choice?

mwe:
```

variable {α β γ} [Inhabited α] [Inhabited β] [Inhabited γ]

constant adjoint : (α → β) → (β → α)

@[simp]
theorem adjoint_of_comp (f : β → γ) (g : α → β) :
  adjoint (λ x => f (g x)) = adjoint g ∘ adjoint f 
  := 
  by sorry

@[simp]
theorem adjoint_of_fst :
  adjoint (Prod.fst : α × β → α) = fun x : α => (x, default) 
  := by sorry

example : adjoint (Prod.fst : α × β → α) = fun x : α => (x, default) 
  :=
by
  -- This applies `adjoint_of_comp` for some reason
  simp (config := { singlePass := true })
  
  simp -- infinite recursion
  done


constant my_fst : α × β → α 

@[simp]
theorem adjoint_of_my_fst :
  adjoint (my_fst : α × β → α) = fun x : α => (x, default) 
  := by sorry

example : adjoint (my_fst : α × β → α) = fun x : α => (x, default) 
  :=
by
  simp
  done
```

**Comment by leodemoura** [comment]
The key problem here is the `simp` theorem `adjoint_of_comp`. It requires high-order matching which is approximated in Lean. We should have a linter in the future that generates a warning whenever this kind of theorem is marked with `simp`.
When we try to apply it in the first example, we have to solve the following constraint
```lean
  adjoint (fun x => ?f (?g x))  =?= adjoint (@Prod.fst α β)
```
This constraint is successfully solved using the following derivation
```lean
  fun x => ?f (?g x)  =?= @Prod.fst α β    
  fun x => ?f (?g x)  =?= fun x => @Prod.fst α β x   -- by eta
  ?f (?g x) =?= @Prod.fst α β x                      -- isDefEq for lambda
  ?f =?= @Prod.fst α β;   ?g x =?= x                 -- by first-order approximation
  ?f := @Prod.fst α β;  ?g := fun x => x
```
We use an index for selecting theorems to be applied by `simp`. The "key" for `adjoint_of_comp` is `adjoint <other>`. We use `other` for terms such as lambdas. The retrieval in this index is performed modulo reducible constants. `Proj.fst` is reducible. Thus, when looking for theorems to apply at `adjoint (@Prod.fst α β)`, we unfold `Prod.fst`, and obtain `adjoint (fun x => ...)` which produces the key `adjoint <other>`, and the theorem `adjoint_of_comp` is retrieved.
Note that `simp` loops because it can keep applying `adjoint_of_comp` using `g := fun x => x`.
In your second example, `my_fst` is a constant and cannot be reduced. So, the theorem `adjoint_of_comp` is never even tried.

You should avoid marking theorems such as `adjoint_of_fst` with `[simp]`. You can write a "first-order" version that is only applied when `Function.comp` is used for function composition. That is, the theorem will only be used if the user explicitly used `Function.comp`.

```lean
@[simp]
theorem adjoint_of_comp (f : β → γ) (g : α → β) :
  adjoint (f ∘ g) = adjoint g ∘ adjoint f
  :=
  by sorry
```

**Comment by lecopivo** [comment]
Thank you very much for the detailed explanation. I remember you mentioned somewhere else that theorems like `adjoint_of_comp` are not simp safe but I didn't understand why. Now it makes more sense.

Unfortunately, my project currently stands on Lean's ability to do higher order matching and simp theorems like `adjoint_of_comp` in the original formulation. I don't see how I can use only the "first-order" version.

I will probably make a specialized tactic which will interleave rewrites with unsafe theorems like `adjoint_of_comp` and simp. I have encountered similar problem before and this solution seems to work reasonably well.

**Comment by leodemoura** [comment]
> Unfortunately, my project currently stands on Lean's ability to do higher order matching and simp theorems like adjoint_of_comp in the original formulation. I don't see how I can use only the "first-order" version.

I see. Could you please describe the use-cases where you want `adjoint_of_comp` to succeed? We may be able to tweak the implementation a bit to support them.

I think @gebner and @digama0 have workaround this kind of limitation before while developing Mathlib and may have nice tricks.

**Comment by gebner** [comment]
cc @Vierkantor, who just gave a talk at [MCM](https://lean-forward.github.io/lorentz-center-meeting/) about more or less exactly this problem.

**Comment by lecopivo** [comment]
I'm building automatic/symbolic differentiation library.

To give an example let's compute the gradient of the squared norm(`⟪x,x⟫` is inner product on `X`):
```
∇ (λ x : X => 2 * ⟪x,x⟫)  =  (λ x : X => 4 * x)
```
The gradient `∇` is defined with differential `δ` and adjoint `†` as `∇ f = λ x => (δ f x)† 1` for `f : X → ℝ`


Step 1: differential
------

The first step is to compute the differential, for `x₀ dx : X`
```
 δ (λ x => 2 * ⟪x,x⟫) x₀ dx = 2 * (⟪dx,x₀⟫ + ⟪x₀,dx⟫)
```

This is done in with following steps: 
```
δ (λ x => 2 * ⟪x,x⟫) x₀ dx
```
[rule](https://github.com/lecopivo/SciLean/blob/3b1a97832e3d0f782d15d3a8e2dc84636fa685c5/SciLean/Operators/Calculus/Differential.lean#L58): `δ (λ x => f (g x)) x₀ dx = δ f (g x₀) (δ g x₀ dx)`

```
δ (HMul.hMul 2) (⟪x₀,x₀⟫) (δ (λ x => ⟪x,x⟫) x₀ dx)
```

[rule](https://github.com/lecopivo/SciLean/blob/3b1a97832e3d0f782d15d3a8e2dc84636fa685c5/SciLean/Operators/Calculus/Differential.lean#L95): `δ (λ (x : X) => f (g1 x) (g2 x)) x₀ dx = δ f (g1 x₀) (δ g1 x₀ dx) (g2 x₀) + δ (f (g1 x₀)) (g2 x₀) (δ g2 x₀ dx)`

```
δ (HMul.hMul 2) (⟪x₀,x₀⟫) (δ (⟪·,·⟫) x₀ (δ (λ x => x) x₀ dx) x₀ + δ (⟪x₀,·⟫) x₀ (δ (λ x => x) x₀ dx))
```

[rule](https://github.com/lecopivo/SciLean/blob/3b1a97832e3d0f782d15d3a8e2dc84636fa685c5/SciLean/Operators/Calculus/Differential.lean#L21): `δ fun x => x ==> fun x dx => dx`

```
δ (HMul.hMul 2) (⟪x₀,x₀⟫) (δ (⟪·,·⟫) x₀ dx x₀ + δ (⟪x₀,·⟫) x₀ dx)
```

[rule](https://github.com/lecopivo/SciLean/blob/3b1a97832e3d0f782d15d3a8e2dc84636fa685c5/SciLean/Operators/Calculus/Differential.lean#L25): if `f` is linear → `δ f x dx = f dx`
and `HMul.hMul 2`, `⟪·,·⟫` and `⟪x₀,·⟫` are linear functions

```
2 * (⟪dx,x₀⟫ + ⟪x₀,dx⟫)
```

Step 2: adjoint
------

The second step is to compute the adjoint
```
(λ dx : X => 2 * (⟪dx,x₀⟫ + ⟪x₀,dx⟫))† 1 = 4 * x₀
```

It is computed with the following steps
```
(λ dx : X => 2 * (⟪dx,x₀⟫ + ⟪x₀,dx⟫))†
```

[rule](https://github.com/lecopivo/SciLean/blob/3b1a97832e3d0f782d15d3a8e2dc84636fa685c5/SciLean/Operators/Adjoint/Basic.lean#L320): `(λ x => f (g x))† = g† ∘ f†`

```
((λ dx : X => (⟪dx,x₀⟫ + ⟪x₀,dx⟫))† ∘ (HMul.hMul 2)†)
```

[rule](https://github.com/lecopivo/SciLean/blob/3b1a97832e3d0f782d15d3a8e2dc84636fa685c5/SciLean/Operators/Adjoint/Basic.lean#L427): `(λ x => f (g1 x) (g2 x))† = (uncurry HAdd.hAdd) ∘ (Prod.map g1† g2†) ∘ (uncurry f)†`

```
uncurry HAdd.hAdd ∘ Prod.map (⟪·,x₀⟫)† (⟪x₀,·⟫)† ∘ (uncurry HAdd.hAdd)† ∘ (HMul.hMul 2)†
```

atomic adjoints: 
  of inner product `(⟪·,x₀⟫)† = λ s => s * x₀`
  of addition `(uncurry HAdd.hAdd)† = λ x => (x,x)`
  of scalar multiplication `(HMul.hMul 2)† = HMul.hMul 2`

```
uncurry HAdd.hAdd ∘ Prod.map (·*x₀) (·*x₀) ∘ (λ x => (x,x)) ∘ (HMul.hMul 2)
```

Now evaluate this at `1` and do some basic siplification and you should get `4 * x₀`

----

If it would help, I can build a small self contained example that is doing these kind of rewrites. 

----

One particularly problematic rule is this one:
```
adjoint (λ x => f (g x) b) = adjoint g ∘ adjoint (λ y => f y b)
```
which has a tendency to loop infinitely as the pattern matches on `adjoint (λ y => f y b)` with `g = (λ x => x)`. My solution is to exclude this theorem from `simp` and then have specialized tactic that interleaves `simp` and this rewrite, [see the code](https://github.com/lecopivo/SciLean/blob/3b1a97832e3d0f782d15d3a8e2dc84636fa685c5/SciLean/Operators/Adjoint/Basic.lean#L482).

**Comment by lecopivo** [comment]
Just to point out, the first step in both computations is to apply rule how differential or adjoint acts on function composition. Without it the computation/simplification can't be broken down to smaller pieces.

**Comment by lecopivo** [comment]
I just want to expand on my "I don't see how I can use only the "first-order" version."

For very long time, almost a year, I was attempting what I'm doing with the "first-order" versions of those theorems. I have a tactic that can eliminate simply typed lambdas with SKI combinators and their variants. 

The problem is that proving linearity or differentiabily of the resulting expressions is really difficult, especually when dealing with higher order functions. And all those theorems I'm using are usually conditioned on differentiabily or linearity of certain functions.

When I realized that Learn can do higher order matching and I can work with lambdas directly,  have ditched SKI combinators and finally started making some progress.

**Comment by lecopivo** [comment]
> cc @Vierkantor, who just gave a talk at [MCM](https://lean-forward.github.io/lorentz-center-meeting/) about more or less exactly this problem.

Was it recorded? I would be interested in hearing it.

**Comment by leodemoura** [comment]
@lecopivo What about adding instances of `adjoint_of_comp` that are `simp` "friendly"? Example:
```lean
-- @[simp] -- Remove problematic `simp` annotation
theorem adjoint_of_comp (f : β → γ) (g : α → β) :
  adjoint (λ x => f (g x)) = adjoint g ∘ adjoint f 
  := 
  by sorry

@[simp]
theorem adjoint_of_mul_comp [Mul β] (b : β) (g : α → β) : adjoint (λ x => b * g x) = adjoint g ∘ adjoint (HMul.hMul b) :=
 adjoint_of_comp (HMul.hMul b) g
```

**Comment by lecopivo** [comment]
I don't think that would scale. I can go over all my unit tests and print out all the uses of `adjoint_of_comp` and alike. I don't believe its uses can be shrunk to some small set of theorems with specialized `f` or `g`

One of my aims is to build flexible machine learning framework where you can easily define a neural network. A network is just a composition of layers and for each type of layer you would have to provide theorem like that.
I want the framework to be really flexible and allow to easily define a new layers by users. It would kind of defeat the purpose if a user would have to provide these specialized theorems.

**Comment by lecopivo** [comment]
I went through the computation of gradient of `(Δx/(2*m)) * ∥p∥² + (Δx * k/2) * (∑ i, ∥x[i] - x[i-1]∥²)` w.r.t to `x` and `p` and the uses of `*_of_comp` theorems are:

Differential of composition: `δ (λ x => f (g x)) x₀ dx = δ f (g x₀) (δ g x₀ dx)`
1. `f = HAdd.hAdd`
2. `f = HAdd.hAdd c` for some constant `c`
3. `f = HMul.hMul c` for some constant `c`
4. `f = (sum : (Fin n -> ℝ) -> ℝ)`
5. `f = (λ x => ∥x∥²)`

Adjoint of composition: `(λ x => f (g x))† = g† ∘ f†`
1. `f = HMul.hMul c` for some constant `c`

It looks like that `f` is fairly simple or maybe what I would call 'atomic' differentiable function. For these 'atomic' functions I have to write a differentiation rule manually e.g. `δ (λ x : X => ∥x∥²) = λ x dx : X => 2*⟪x, dx⟫`. So it might be feasible to write down the composition rule too. The slight problem is that I have around 10 different variants of the composition rule, but that can be automated.

If it turns out that `f` is always simple/atomic in applications that would be indeed an interesting discovery. However, I'm a bit skeptical. What I really want to do is symbolic variational calculus, i.e. differentiation of higher order functions, and there I'm expecting `f` might not always be some 'atomic' function but can very easily be some lambda's bound variable. Unfortunately, I do not yet have interesting enough examples to make a conclusion if that is the case or not.

**Comment by lecopivo** [comment]
I wrote a small self contained differentiation test of lambda expressions. There are three main simp theorem `D_I` `D_K` `D_S` corresponding to the three basic combinators. These theorems should be in theory sufficient to differentiate any lambda expression(plus some theorems about addition). 

I'm really surprised, simp performs really well. Few months ago, when I was writing the first version of the library, simp was unable to solve `D_diag` or `D_parm` automatically. 

```
constant D (f : α → β) : α → α → β := λ x _ => f x

variable {α β β₁ β₂ γ δ : Type}
variable [Inhabited α] [Inhabited β] [Inhabited γ] [Inhabited δ] [Inhabited β₁] [Inhabited β₂]
variable [Add α] [Add β] [Add γ] [Add δ] [Add β₁] [Add β₂]

instance {α β : Type} [Add β] : Add (α → β) := ⟨λ f g x => f x + g x⟩

 -- default plays role of a zero
@[simp]
axiom add_default {α} [Inhabited α] [Add α] (x : α) : x + default = x
@[simp]
axiom default_add {α} [Inhabited α] [Add α] (x : α) : default + x = x
-- derivative in zero direction is zero
@[simp]
axiom D_default (f : α → β) (x) : D f x default = default

@[simp]
theorem default_eval {α} [Inhabited β] (x : α) : (default : α → β) x = default :=
by
  unfold default; unfold instInhabitedForAll_1; unfold default; simp; done

-- Basic combinators
@[simp]
axiom D_I         
  : D (λ x : α => x) = λ x dx => dx 
@[simp]
axiom D_K (y : β) 
  : D (λ x : α => y) = λ x dx => default 
@[simp]
axiom D_S (f : α → β → γ) (g : α → β) 
  : D (λ x => f x (g x)) = λ x dx => D (f x) (g x) (D g x dx) + D f x dx (g x)

set_option trace.Meta.Tactic.simp.rewrite true

theorem D_B (f : β → γ) (g : α → β) 
  : D (λ x => f (g x)) = λ x dx => D f (g x) (D g x dx) :=
by 
  simp; done

theorem D_W (f : α → α → β)
  : D (λ x => f x x) = λ x dx => D (f x) x dx + D f x dx x :=
by
  simp; done

theorem D_diag (f : β₁ → β₂ → γ) (g₁ : α → β₁) (g₂ : α → β₂)
  : D (λ x => f (g₁ x) (g₂ x)) = λ x dx => D (f (g₁ x)) (g₂ x) (D g₂ x dx) + D f (g₁ x) (D g₁ x dx) (g₂ x) := 
by
  simp; done

theorem D_parm (f : α → β → γ) (g : β₁ → α) (b : β)
  : D (λ x => f (g x) b) = λ x dx => D f (g x) (D g x dx) b :=
by
  simp; done
```

**Comment by lecopivo** [comment]
And some tests for derivatives of higher order functions, here things get a bit more complicated. For example, in the proof of `D_diag_g₁_g₂`  the theorem `D_S` is used with `?f = (fun g₁ => f (g₁ x))`.


The following works when appended to the previous example:
```
theorem D_partial (f : α → β → γ)
  : D (λ x y => f x y) = λ x dx y => D (λ x' => f x' y) x dx :=
by
  simp; done

theorem D_K_y 
  : D (λ (y : β) (x : α) => y) = λ y dy x => dy :=
by 
  rw[D_partial];
  simp; done

theorem D_S_g_x (f : α → β → γ)
  : D (λ (g : α → β) (x : α) => f x (g x)) = λ g dg x => D (f x) (g x) (dg x) :=
by 
  rw[D_partial]; simp; done

theorem D_S_f_g_x 
  : D (λ (f : α → β → γ) (g : α → β) (x : α) => f x (g x)) = λ f df g x => df x (g x) :=
by 
  -- conv => lhs; rw[D_partial]; rw[D_partial];
  rw[D_partial]; funext f df g; rw[D_partial];
  simp; done

theorem D_diag_g₂_x (f : β₁ → β₂ → γ) (g₁ : α → β₁)
  : D (λ (g₂ : α → β₂) (x : α) => f (g₁ x) (g₂ x)) = λ g₂ dg₂ x => D (f (g₁ x)) (g₂ x) (dg₂ x) := 
by
  rw[D_partial]
  simp; done

theorem D_diag_g₁_g₂ (f : β₁ → β₂ → γ)
  : D (λ (g₁ : α → β₁) (g₂ : α → β₂) (x : α) => f (g₁ x) (g₂ x)) = λ g₁ dg₁ g₂ x => D f (g₁ x) (dg₁ x) (g₂ x) := 
by
  -- conv => lhs; rw[D_partial]; rw[D_partial];
  rw[D_partial]; funext g₁ dg₁ g₂ x; rw[D_partial];
  simp; done
```

**Comment by lecopivo** [comment]
One odd thing is that the second rewrite in `conv => lhs; rw[D_partial]; rw[D_partial];` fails. 

It is necessary to introduce arguments either with `enter[g₁, dg₁, g₂, x]` or `funext g₁ dg₁ g₂ x`. This looks like a bug.

**Comment by lecopivo** [comment]
I'm actually really happy how high-order matching works and I do not mind it is just an approximation!

I think I have managed to understand where the problem is and the only solution I see is to add simp theorem that rewrites `Prod.fst` to `my_fst`.

An example in the context of the differentiation above. If you remove the theorem `fst_my_fst ` the last example applies `D_S` indefinitely.
```
@[simp]
axiom D_fst : D (Prod.fst : α × β → α) = λ (a,b) (da,db) => da

def my_fst : α × β → α := λ (a,b) => a

@[simp]
axiom D_my_fst : D (my_fst : α × β → α) = λ (a,b) (da,db) => da

example : D (my_fst : α × β → α) = λ (a,b) (da,db) => da :=
by
  simp; done

@[simp]
theorem fst_my_fst : (Prod.fst : α × β → α) = (my_fst : α × β → α) := by simp[my_fst]; done

example : D (Prod.fst : α × β → α) = λ (a,b) (da,db) => da :=
by
  simp; done
```

**Comment by digama0** [comment]
> > cc @Vierkantor, who just gave a talk at [MCM](https://lean-forward.github.io/lorentz-center-meeting/) about more or less exactly this problem.
> 
> Was it recorded? I would be interested in hearing it.

They were recorded, although the recordings are still pending public release due to some legal issues that will hopefully be straightened out eventually.

**Comment by leodemoura** [comment]
I am planning to close this issue soon. If you object say something.
